Name:  ___                           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L-sided weakness/numbness
 
Major Surgical or Invasive Procedure:
angiogram

 
History of Present Illness:
Mr. ___ is a ___ y/o man w/ no significant PMH presenting after 
acute-onset L-sided weakness/numbness. CT showed R frontal 
hemorrhages. CTA w/ evidence of ___ disease. Admitted for 
further w/up.
 
Past Medical History:
none
 
Social History:
___
Family History:
No family history of stroke, bleeding or clotting disorders.
 
Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, serial 7's with no errors.
Language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. Able to name
both high and low frequency objects.  Able to read without
difficulty. No dysarthria. Able to follow both midline and
appendicular commands. Able to register 3 objects and recall ___
at 5 minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch, but reduced sensation
on the L.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. Pronator drift on the 
L.
No adventitious movements, such as tremor or asterixis noted.
  [___]
L    4    4+   5    4+   4+   5   4    4    4-  3+   4    4-
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: Reduced sensation to light touch and temperature on
left side including face, neck, upper chest, arm, and leg
(abdomen was equivocal). Proprioception impaired in left index
finger and great toe. No extinction to DSS.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was mute bilaterally.

-Coordination: No intention tremor. Normal FNF and HKS on the R.
Ataxic FNF and HKS on the L, appeared out of proportion to
weakness.

-Gait: Steady (w/ standby assistance)
 
Pertinent Results:
___ 06:20AM BLOOD WBC-8.1 RBC-4.45* Hgb-13.4* Hct-40.8 
MCV-92 MCH-30.1 MCHC-32.8 RDW-12.8 RDWSD-43.1 Plt ___
___ 06:20AM BLOOD Glucose-96 UreaN-15 Creat-0.8 Na-143 
K-3.9 Cl-105 HCO3-21* AnGap-17
___ 06:20AM BLOOD Calcium-9.1 Phos-3.7 Mg-1.9
___ 01:05PM BLOOD Triglyc-106 HDL-57 CHOL/HD-3.2 
LDLcalc-107
___ 01:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Mr. ___ is a ___ y/o man w/ no significant PMH presenting after 
acute-onset L-sided weakness/numbness. CT showed R frontal 
hemorrhages. CTA w/ evidence of Moyamoya disease. Admitted for 
further w/up.

___, Neurosurgery performed angiogram that confirmed b/l 
Moyamoya disease.
MRI showed no other stroke.

Pt had no acute events inpt.
Symptoms significantly improved by ___. No issues w/ gait or 
other motor function; ___ indicated that pt would not need 
physical therapy.

___, we recommended that pt remain in hospital an additional 
night to monitor BP and titrate ACE inhibitor therapy for 
optimal BP control considering hemorrhages.
Despite our recommendations, pt elected to leave AMA.
 
Medications on Admission:
none
 
Discharge Medications:
1.  Lisinopril 5 mg PO DAILY hypertension 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Moyamoya disease; hemorrhagic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

  You were admitted for hemorrhages in the right frontal lobe of 
your brain. You were found to have Moyamoya disease, an 
abnormality of your cerebral vasculature.
  Neurosurgery recommends following-up in clinic to further 
discuss surgical options.

  You were also found to be hypertensive; for this, we started 
you on a medication called lisinopril (see medication list).

  You should also follow-up with your primary care and with 
Neurology.

It was a pleasure taking care of you.
 - Your ___ Neurology team
 
Followup Instructions:
___